US05596001
3-[3-{2,4-Bis(methylthio)-6-methylpyridin-3-yl}ureido-6-chloro-4-(2-chlorophenyl)quinoline
A solution of 3-amino-6-chloro-4-(2-chlorophenyl)quinoline (174 mg, 0.6 mmol) and 2,4-bis(methylthio)-6-methylpyridin-3-yl isocyanate (136 mg, 0.6 mmol) in 3 ml dimethylformamide was heated at 80° C. under nitrogen overnight. The reaction mixture was then cooled to room temperature, diluted with 30 ml ethyl acetate and washed with 2×30 ml water, 30 ml brine, dried (anhydrous sodium sulfate), filtered and concentrated in vacuo. The solid residue was triturated with 10 ml 4:1 hexane/ethyl acetate and filtered to yield the title compound as a white solid (140 mg, 45% yield).

reactant | 3-amino-6-chloro-4-(2-chlorophenyl)quinoline | 0.6 mmol, 174 mg | NC=1C=NC2=CC=C(C=C2C1C1=C(C=CC=C1)Cl)Cl | C15H10Cl2N2
reactant | 2,4-bis(methylthio)-6-methylpyridin-3-yl isocyanate | 0.6 mmol, 136 mg | CSC1=NC(=CC(=C1N=C=O)SC)C | C9H10N2OS2
reactant | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 3-{2,4-Bis(methylthio)-6-methylpyridin-3-yl}ureido-6-chloro-4-(2-chlorophenyl)quinoline | 140 mg, 45% yield | CSC1=NC(=CC(=C1NC(NC1=NC2=CC=C(C=C2C(=C1)C1=C(C=CC=C1)Cl)Cl)=O)SC)C | C24H20Cl2N4OS2
